US09034866B2
2-Carbamoyl-9-fluoro-10-(3-hydroxy-3-methyl-but-1-ynyl)-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-3-carboxylic acid (0.05 g) was reacted with (1-methylpyrrolidin-2-yl)methylamine similar to as described in Example 2 to afford 7.6 mg of (±) 9-fluoro-10-(3-hydroxy-3-methyl-but-1-ynyl)-N3-[(1-methylpyrrolidin-2-yl)methyl]-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2,3-dicarboxamide following reverse phase hplc purification. MS (Q1) 470 (M)+. 1H NMR (400 MHz, DMSO) δ 8.58 (d, J=8.5 Hz, 1H), 7.74 (s, 1H), 7.27 (s, 1H), 7.01 (d, J=10.4, 4.6 Hz, 1H), 4.67-4.44 (m, 2H), 4.44-4.14 (m, 2H), 2.96 (s, 2H), 2.36 (s, 1H), 2.02-1.86 (m, 2H), 1.83 (s, 1H), 1.78-1.62 (m, 1H), 1.49 (s, 6H).

reactant | 2-Carbamoyl-9-fluoro-10-(3-hydroxy-3-methyl-but-1-ynyl)-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-3-carboxylic acid | 0.05 g | C(N)(=O)C=1N=C2N(CCOC3=C2C=C(C(=C3)F)C#CC(C)(C)O)C1C(=O)O | C18H16FN3O5
reactant | (1-methylpyrrolidin-2-yl)methylamine | CN1C(CCC1)CN | C6H14N2
product | (±) 9-fluoro-10-(3-hydroxy-3-methyl-but-1-ynyl)-N3-[(1-methylpyrrolidin-2-yl)methyl]-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2,3-dicarboxamide | 7.6 mg | FC1=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)C(=O)NCC3N(CCC3)C)C=C1C#CC(C)(C)O | C24H28FN5O4
